US05166198
d) 9-Hydroxy-6-phthalimidopurine
A mixture of 9-benzyloxy-6-phthalimidopurine (11.0 g, 29.5 mmol), 10% palladium on charcoal (2.2 g), ethanol (300 ml) and tetrahydrofuran (500 ml) was stirred at 25° C. for 1 hour under an atmosphere of hydrogen. The suspension was then filtered and the catalyst washed with ethanol. The filtrate was evaporated under reduced pressure and the resulting solid triturated with ether. The solid was collected and then dried to afford the title compound (6.93 g; 83%). IR: υmax (KBr). 2607, 1794, 1735, 1603, 1582, 1467, 1401 cm-1 ; 1H NMRδH [(CD3)2SO] 8.15(4H, s, Ar), 8.95(1H, s, H-2), 9.15(1H, s, H-8), 12.80(1H, br.s, D2O exchangeable, OH). Found: C, 55.34; H, 2.58; N, 24.56%. C13H7N5O3 requires: C, 55.51; H, 2.51; N, 24.91%.

reactant | 9-benzyloxy-6-phthalimidopurine | 29.5 mmol, 11.0 g | C(C1=CC=CC=C1)ON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H13N5O3
reactant | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.2 g | [Pd] | Pd
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 9-Hydroxy-6-phthalimidopurine | 6.93 g, 83% | ON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H7N5O3
